US07956061B2
4-Chloro-2-methoxybenzaldehyde
Following the general method of R. A. Miller and R. S. Hoerrner, Org. Lett., 5, 285 (2003), a solution of 2.5 g (14.1 mmol based on 97% purity) of 4-chloro-2-methoxybenzyl alcohol in 35 mL of toluene was treated with 35 mL of water and 3.54 g (42.3 mmol) of sodium bicarbonate. The resulting two-phase mixture was stirred at ambient temperature as 7.2 g (28.2 mmol) of iodine was added, followed by 0.223 g (1.41 mmol) of 2,2,6,6-tetramethyl-1-piperidinyloxy, free radical (TEMPO). After 3 days, the dark mixture was cooled to 5° C. and quenched by addition of a solution of 1.8 g of sodium sulfite in 18 mL of water. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with brine. The organic phase was then dried over anhydrous sodium sulfate. The supernatant was concentrated to a volume of approximately 5 mL and kept at 5° C. for 1 h. The solid that separated was collected on a filter, washed twice with small volumes of cold toluene, and dried in vacuo to yield the title compound as a white solid. LC-MS 171 (M+1).

reactant | 4-chloro-2-methoxybenzyl alcohol | 14.1 mmol, 2.5 g | ClC1=CC(=C(CO)C=C1)OC | C8H9ClO2
reactant | sodium bicarbonate | 42.3 mmol, 3.54 g | C([O-])(O)=O.[Na+]
reactant | iodine | 28.2 mmol, 7.2 g | II | I2
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 35 mL | O | H2O
product | 4-Chloro-2-methoxybenzaldehyde | ClC1=CC(=C(C=O)C=C1)OC | C8H7ClO2
